US05635529
A mixture of 5,6-epoxy-1,3-dioxepane (0.5 g) and of 4-acetylaminobenzenesulfonamide (0.92 g) was heated in a sealed ampule at the temperature of 150° C. for 15 minutes. The mixture was cooled to room temperature, chromatographed on a silica gel column by elution with a mixture of ethyl acetate-methanol (9.5:0.5) and trans-6-(4-acetylaminobenzenesulfonamido)-1,3-dioxepane-5-ol was obtained. M.p. 208°-210° C./ethyl acetate-methanol (6:1).

reactant | 5,6-epoxy-1,3-dioxepane | 0.5 g | O1C2COCOCC21 | C5H8O3
reactant | 4-acetylaminobenzenesulfonamide | 0.92 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N | C8H10N2O3S
product | trans-6-(4-acetylaminobenzenesulfonamido)-1,3-dioxepane-5-ol | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@@H](COCOC1)O | C13H18N2O6S
